Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
gabapentin / Topamax
 
Attending: ___
 
Chief Complaint:
abnormal uterine bleeding 
 
Major Surgical or Invasive Procedure:
Total laparoscopic hysterectomy, bilateral 
salpingo-oohporectomy, cystoscopy

 
History of Present Illness:
___ yo G0 transgender man with continued uterine bleeding despite 
therapeutic doses of Testosterone and trialing other hormonal 
options. IM Depo-Provera caused increased vaginal bleeding. He 
declines any Estrogen formulations because of his trans status. 
He started Testosterone ___ and was menses-free for ~ 5 
months. He then began to experience random bleeding for about 
___ years. He described this bleeding as spotting to a light 
flow. With an increase in his testosterone dose, the bleeding 
improved for a short period of time. For the past year, he has 
had a light flow every ___ weeks. Also, he endorses post-coital 
bleeding and dyspareunia.

He desires definite therapy for this abnormal uterine bleeding. 
In addition, having a total hysterectomy with removal of both 
fallopian tubes and ovaries would be gender affirming. He has no 
desire to achieve pregnancy nor does he want to harvest his 
eggs.

Second, in terms of his urinary frequency, he was evaluated in 
uro-gyn and prescribed Oxybutynin; however, he discontinued this 
therapy because of side effects - blurry vision, dizziness and 
forgetfulness. He will follow-up with uro-gyn for other 
treatment options.

___ ultrasound showed an anteverted uterus that measured  
7.0 x 2.8 x 4.9 cm. The endometrium was homogenous and measured 
3mm. The ovaries were normal and there was no free fluid. These 
results were discussed with my patient and his questions were 
answered.
 
Past Medical History:
Ob/Gyn hx:
G0
Menarche @ 13
last pap ___ - negative for intraepithelial neoplasia or 
malignancy
he denies an abnormal pap or STI history
his sexual orientation - pansexual
he is sexually active with his current female partner x 6 months
 first intercourse @ 16
contraception - n/a

Problems 
TRANSGENDER MAN                                                 
ASTHMA                                                          
ASTHMA                                                          
DEPRESSION                                                      
ANXIETY                                                         
FREQUENT UTIS/KIDNEY INFECTION IN CHILDHOOD                     
EATING DISORDER TREATED WITH MARIJUANA                          

Surgical History 
BILATERAL MASTECTOMY                                  ___      
 
Social History:
Social hx:
Marital status:     Significant Other                           
Lives with:         girlfriend and her 2 sons ___ and ___           

Multiple partners:  ___                                      
___ activity:    Present                                     
Sexual orientation: Female                                      
Sexual Abuse:       Past                                        
Sexual abuse        hx of emotional, verbal and sexual abuse    
comments:                                                       
Domestic violence:  Past                                        
Domestic violence   feels safe with present partner of 6 months  

comments:                                                       
Contraception:      N/A                                         
Tobacco use:        Current every day smoker                    
Smoking cessation   No                                          
counseling offered:                                             
Alcohol use:        Present                                     
drinks per week:    ___                                         
Recreational drugs  Past and Present                            
(marijuana, heroin,                                             
crack pills or                                                  
other):                                                         
Recreational drugs  ___ grams of marijuana/day                  
comments:                                      
 
Family History:
Family History 

Mother                  ANXIETY                                 

Father                  DEPRESSION                              

MGM                     BREAST CANCER                           

MGF                     HEART PROBLEMS                          

 
Physical Exam:
Discharge physical exam
Vitals: VSS
Gen: NAD, A&O x 3
CV: RRR
Resp: no acute respiratory distress
Abd: soft, appropriately tender, no rebound/guarding, incision 
c/d/i
Ext: no TTP
 
Pertinent Results:
pathology pending
 
Brief Hospital Course:
On ___, ___ was admitted to the gynecology service after 
undergoing Total laparoscopic hysterectomy, bilateral 
salpingo-oohporectomy, cystoscopy for the treatment of abnormal 
uterine bleeding and gender affirmation surgery. Please see the 
operative report for full details.

His post-operative course was uncomplicated. Immediately 
post-op, his pain was controlled with IV Dilaudid/Toradol.

On post-operative day 0, his urine output was adequate so his 
foley was removed and he voided spontaneously. His  diet was 
advanced without difficulty and he was transitioned to PO 
oxycodone/ibuprofen/acetaminophen.

By post-operative day 1, he was tolerating a regular diet, 
voiding spontaneously, ambulating independently, and pain was 
controlled with oral medications. He was then discharged home in 
stable condition with outpatient follow-up scheduled.

 
Medications on Admission:
Medications:
 
CLONAZEPAM - clonazepam 0.5 mg tablet. one tablet(s) by mouth  
as
needed for for anxiety -  (Prescribed by Other Provider)
DEXTROAMPHETAMINE-AMPHETAMINE [ADDERALL] - Adderall 12.5 mg
tablet. 1 tablet(s) by mouth twice per day -  (Prescribed by
Other Provider)
DOXYCYCLINE HYCLATE - Dosage uncertain -  (Prescribed by Other
Provider)
TESTOSTERONE CYPIONATE - testosterone cypionate 100 mg/mL
intramuscular oil. 0.5 (One half) ml IM every eight days - 
(Prescribed by Other Provider)
 
Medications - OTC
DIPHENHYDRAMINE HCL [BENADRYL] - Benadryl 25 mg capsule. ___
capsule(s) by mouth at bedtime as needed for insomnia -  (OTC)

Allergies:
gabapentin
 
Discharge Medications:
1.  Acetaminophen ___ mg PO Q6H:PRN Pain - Mild 
no more than 4 g in 24hrs 
RX *acetaminophen 500 mg ___ tablet(s) by mouth every 6 hrs Disp 
#*40 Tablet Refills:*0 
2.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 capsule(s) by mouth every 12 hrs 
Disp #*60 Capsule Refills:*0 
3.  Ibuprofen 600 mg PO Q6H:PRN Pain - Moderate 
take with food, no more than 2400mg in 24hrs 
RX *ibuprofen 600 mg 1 tablet(s) by mouth every 6 hrs Disp #*40 
Tablet Refills:*0 
4.  OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN Pain - 
Moderate 
don't drive or drink alcohol while on this medication 
RX *oxycodone 5 mg ___ tablet(s) by mouth every 4 hrs Disp #*40 
Tablet Refills:*0 
5.  Amphetamine-Dextroamphetamine 20 mg PO BID  
6.  Mirtazapine 22.5 mg PO QHS  
7.  OLANZapine 10 mg PO QHS  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Gender Confirmation Surgery

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___,

You were admitted to the gynecology service after your 
procedure. You have recovered well and the team believes you are 
ready to be discharged home. Please call Dr. ___ 
office with any questions or concerns. Please follow the 
instructions below.

General instructions:
* Take your medications as prescribed.
* Do not drive while taking narcotics.
* Take a stool softener such as colace while taking narcotics to 
prevent constipation.
* Do not combine narcotic and sedative medications or alcohol.
* Do not take more than 4000mg acetaminophen (APAP) in 24 hrs.
* No strenuous activity until your post-op appointment.
* Nothing in the vagina (no tampons, no douching, no sex) for 3 
months.
* No heavy lifting of objects >10 lbs for 6 weeks.
* You may eat a regular diet.
* You may walk up and down stairs.

Incision care:
* You may shower and allow soapy water to run over incision; no 
scrubbing of incision. No tub baths for 6 weeks.
* Leave your steri-strips on for now. They will likely fall off 
on their own. If they do not, you may remove them in ___ days.

To reach medical records to get the records from this 
hospitalization sent to your doctor at home, call ___.
 
Followup Instructions:
___